US07517902B2
6-Bromo-3-amino-1H-indazole
A solution of 10 g of 4-bromo-2-fluorobenzonitrile in 300 mL of ethanol is admixed with 7.29 mL of hydrazine hydrate. The reaction mixture is stirred for 22 hours at reflux and then concentrated under reduced pressure. The residue obtained is stirred for 30 minutes in 200 mL of distilled water. The suspended solid is isolated by filtration, washed with water and treated with suction. After drying under vacuum, 10 g of 6-bromo-3-amino-1H-indazole are obtained, whose characteristics are as follows:

reactant | 4-bromo-2-fluorobenzonitrile | 10 g | BrC1=CC(=C(C#N)C=C1)F | C7H3BrFN
reactant | hydrazine hydrate | 7.29 mL | O.NN
solvent | ethanol | 300 mL | C(C)O | C2H6O
solvent | water | 200 mL | O | H2O
product | 6-Bromo-3-amino-1H-indazole | BrC1=CC=C2C(=NNC2=C1)N | C7H6BrN3
